US07425634B2
(1b) 2-(((4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridin-2-yl)methyl)thio)-1H-benzimidazole
To a mixture of (4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridin-2-yl)methyl methanesulfonate (500 mg, 1.39=mmol), 2-mercaptobenzimidazole (209 mg, 1.39 mmol) and tetrahydrofuran (5 ml), triethylamine (0.387 ml, 2.78 mmol) was added and the mixture was stirred at room temperature for 14 hours and 25 minutes. The reaction mixture was concentrated under reduced pressure, and toluene and a 0.1N aqueous sodium hydroxide solution were added to the residue and insoluble substance was removed by filtration. The organic layer was taken out and the aqueous layer was extracted again with toluene. The organic layers were combined, washed with a saturated saline solution, dried over sodium sulfate, and filtrated. The filtrate was concentrated under reduced pressure. The residue was dissolved in n-heptane/ethyl acetate (1/1) and subjected to silica gel column chromatography (elution solvent: n-heptane/ethyl acetate=1/1→0/1) to obtain the title compound (549 mg, 95.5%) as a colorless viscous oil.

reactant | (4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridin-2-yl)methyl methanesulfonate | 500 mg | CS(=O)(=O)OCC1=NC=C(C(=C1C)OCC1COC(OC1)(C)C)C | C16H25NO6S
reactant | 2-mercaptobenzimidazole | 1.39 mmol, 209 mg | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | triethylamine | 2.78 mmol, 0.387 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-(((4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridin-2-yl)methyl)thio)-1H-benzimidazole | 549 mg, 95.5% | CC1(OCC(CO1)COC1=C(C(=NC=C1C)CSC1=NC2=C(N1)C=CC=C2)C)C | C22H27N3O3S
